US04402972
Using the procedure of Step A of Example 15, 3.89 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate and 1 g of neopentyl alcohol were reacted and the mixture was stirred at room temperature for 4 hours and was filtered. The filtrate was washed with N hydrochloric acid, with water, dried and evaporated to dryness under reduced pressure. The residue was chromatographed over silica gel and was eluted with an 8-2 cyclohexane-ethyl acetate mixture to obtain 3.8 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-neopentyloxycarbonyl-ethynyl]-cyclopropane-carboxylate melting at 67° C.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 3.89 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | neopentyl alcohol | 1 g | C(C(C)(C)C)O | C5H12O
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-[2-neopentyloxycarbonyl-ethynyl]-cyclopropane-carboxylate | 3.8 g | CC1([C@@H]([C@@H]1C#CC(=O)OCC(C)(C)C)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C28H29NO5
